US05919433
a) N-(2-Bromoacetyl)-glycine-tert-butyl ester
77.8 g (385.5 mmol) of α-bromoacetic acid bromide is added in drops at 0° C. to 50 g (296.5 mmol) of glycine-tert-butyl ester hydrochloride salt and 90 g (889.5 mmol) of triethylamine in 500 ml of methylene chloride. In this cases the temperature remains between 0° C.-5° C. 1000 ml of 5% aqueous hydrochloric acid is added, and the organic phase is separated. The organic phase is extracted once more with 500 ml of 5% aqueous hydrochloric acid, dried on magnesium sulfate and evaporated to dryness in a vacuum The residue is recrystallized from diisopropyl ether/n-hexane.

reactant | α-bromoacetic acid bromide | 385.5 mmol, 77.8 g | BrCC(=O)Br | C2H2Br2O
reactant | glycine-tert-butyl ester hydrochloride salt | 296.5 mmol | Cl.C(C)(C)(C)OC(CN)=O
reactant | triethylamine | 889.5 mmol, 90 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1000 ml | Cl | ClH
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Bromoacetyl)-glycine-tert-butyl ester | C(C)(C)(C)OC(CNC(CBr)=O)=O | C8H14BrNO3
